US04892872
A solution of 2.3 g of 6-chloro-3,4-dihydro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid in 100 ml of tetrahydrofuran is cooled to below 0° C. and 2 ml of triethylamine is added under stirring thereto. Further, 1.1 g of ethyl chlorocarbonate is added and the mixture is stirred for 3 hours. To the resultant mixture is added 2.5 g of 4-amino-1-(3-phenoxypropyl)piperidine and the mixture stirred for 8 hours followed by collecting by filtration and washing with tetrahydrofuran and water. To a suspension of thus obtained crystals in 100 ml of methanol are added 10 ml of 10% hydrochloric acid and 30 ml of water and then the suspension is stirred. The collection of the crystals by filtration gives 6-chloro-3,4-dihydro-3-oxo-N-[1-(3-phenoxypropyl)-4-piperidyl]-2H-1,4 -benzoxazine-8-carboxamide hydrochloride, melting at 290°-300° C. with decomposition.

reactant | 6-chloro-3,4-dihydro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 2.3 g | ClC=1C=C(C2=C(NC(CO2)=O)C1)C(=O)O | C9H6ClNO4
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.1 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-amino-1-(3-phenoxypropyl)piperidine | 2.5 g | NC1CCN(CC1)CCCOC1=CC=CC=C1 | C14H22N2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-chloro-3,4-dihydro-3-oxo-N-[1-(3-phenoxypropyl)-4-piperidyl]-2H-1,4 -benzoxazine-8-carboxamide hydrochloride | Cl.ClC=1C=C(C2=C(NC(CO2)=O)C1)C(=O)NC1CCN(CC1)CCCOC1=CC=CC=C1 | InChI=1S/C23H26ClN3O4.ClH/c24-16-13-19(22-20(14-16)26-21(28)15-31-22)23(29)25-17-7-10-27(11-8-17)9-4-12-30-18-5-2-1-3-6-18;/h1-3,5-6,13-14,17H,4,7-12,15H2,(H,25,29)(H,26,28);1H
